Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Penicillins / ibuprofen / Humalog
 
Attending: ___.
 
Chief Complaint:
Worsening foot ulcer
 
Major Surgical or Invasive Procedure:
Lower extremity angiogram - ___
Left femoral to posterior tibial bypass graft in situ with 
angioscopy - ___
Open left ___ toe amputation -___
 
History of Present Illness:
Mr. ___ is a ___ with h/o diabetes, hx of massive PE in ___
s/p surgical removal, on Coumadin (goal INR 2.5-3.5), tobacco
abuse, type 2 protein C deficiency, HLD, and recent L popliteal
artery thrombus seen on US, who presented with ulceration and
necrosis of Left ___ digit toe. 

Patient reports that about a month ago he was walking and had
severe left calf pain and noticed some left lwoer extremity
swelling. He presented to his PCP who sent him to the ED, where
they found a L arterial popliteal thrombus as well as a R 
femoral
artery thrombus. The paient was discharged on Lovonox in 
addition
to his warfarin wihth goal of 2.5-3.5 and recently just stopped
the Lovonox as his INR was 3.2. Also about a month ago, patient
reports that he dropped a bar of soap on his left ___ toe but 
did
not have any symptoms of the time. This past ___, 
the
patient noticed pain, swelling, bleeding of the affected toe as
well as active bleeding. He started noticing a black toe over 
the
last two days, and the active bleeding stopped about three days
ago. He originally presented to ___ and
then to ___ where blood cultures were taken 
and
X rays showed no fracture. He was transferred from ___
for concern for wet gangrene. 

Patient currently reports ___ at worst) stabbing/burning
pain in his ___ toe that radiates up his left leg. He says he
cannot walk on the toe. He also has decreased sensation in the
left toes compared to the right, as well as mild swelling around
his L ankle. He notes that he has had decreased sensation in his
legs for a while from the diabetes and walks using a cane. He
denies fever, chills, n/v/d. Reports some bleeding from the ___
toe though not the ___ toe. Reports A1c in past was 14 and
improving to 8 recently. Reports sugars have been good lately
<150-200.

In the ED:
- Initial vital signs were: 98.4 115 134/84 18 100% RA. 
- Exam notable for:  black ___ toe from distal tip nearly to 
MTP,
able to range at MTP, ulceration at lateral aspect of toe, foul
putrid odor left calf with swelling and slight erythema compared
to right, TTP throughout calf. 
- Labs were notable for: WBC 10.2, INR 3.2, glucose 359
- Studies performed include: X-ray L foot with: "Suboptimal
evaluation of the mid to distal fourth toe due to overlying
bandage; consider repeat study after removal of bandage. No 
large
amount of cortical loss seen, although it is difficult to 
exclude
this at the distal aspect of the distal phalanx. Difficult to
truly assess for soft tissue gas given overlying bandage." LLE
___: "No evidence of deep venous thrombosis in the left lower
extremity veins."
- EKG: ST-segment elevated in V2, sinus tach, RBBB
- Podiatry consulted and recommended vanc, cipro, flagyl, 
cardiac
clearance and INR reversal, betadine to L ___ digit, potential
add on for ___ pending medical clearance. 
- Patient was given:
___ 19:44 IV Morphine Sulfate 2 mg ___  
___ 19:44 PO Acetaminophen 1000 mg ___  
___ 20:05 IV Ciprofloxacin (400 mg ordered) ___
Started  
___ 20:05 IVF  NS ( 1000 mL ordered) ___ Started  

- Vitals on transfer:  98.6 121 113/76 18 98% RA

Upon arrival to the floor, the patient reports the above 
history.

Positive ROS: Per HPI, patient is also diaphoretic
Pertinent negative ROS: denies chest pain, shortness of breath,
palpitations, nausea, vomiting, diarrhea, constipation, pain on
urination, increased urinary frequency. 
 
Past Medical History:
Type II DM, poorly controlled
DVT/PE on Coumadin (goal INR 2.5-3.5)
Tobacco abuse
Type 2 protein C deficiency
HLD
Lower extremity neuropathy
Chronic back pain from car accident in ___
HLD
CTEPH - s/p PTE at Mass Gen in ___
 
Social History:
___
Family History:
Mother had recurrent ___, died of pancreatic cancer in her ___
but clots started in her ___. Father had PE around age ___ and
told patient he had Factor V Leiden. Grandfather with lung
cancer. There is no known family history of pulmonary
hypertension.
 
Physical Exam:
ADMISSION EXAM:
VITALS:  98.6 ___ 19 99 ra 
GENERAL: AOx3, NAD  
HEENT: EOMI, PEERLA, no conjunctival pallor or injection, no
scleral icterus. Moist mucus membranes, poor dentition.    
CARDIAC: Sinus tachycardia, no MRG. 
LUNGS: Lungs are clear to auscultation bilaterally with no
crackles, wheezes, or ronchi.  
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. 
EXTREMITIES: L foot wrapped, necrosis of ___ toe with ulcer
between toes. Slight erythema and edema around L ankle. 
NEUROLOGIC: CN2-12 grossly intact. Decreased sensation in L 
toes,
normal sensation above L ankle, normal sensation in right toes. 

DISCHARGE EXAM:

 
Pertinent Results:
ADMISSION LABS:

___ 05:50PM BLOOD WBC-10.2*# RBC-4.83 Hgb-14.3 Hct-42.3 
MCV-88 MCH-29.6 MCHC-33.8 RDW-12.5 RDWSD-40.0 Plt ___
___ 05:50PM BLOOD Neuts-70.4 Lymphs-17.0* Monos-7.5 Eos-4.3 
Baso-0.5 Im ___ AbsNeut-7.19* AbsLymp-1.73 AbsMono-0.76 
AbsEos-0.44 AbsBaso-0.05
___ 05:50PM BLOOD ___ PTT-36.5 ___
___ 05:50PM BLOOD Plt ___
___ 05:50PM BLOOD Glucose-359* UreaN-14 Creat-0.9 Na-137 
K-4.7 Cl-97 HCO3-28 AnGap-12
___ 05:50PM BLOOD cTropnT-<0.01
___ 05:50PM BLOOD Calcium-9.0 Phos-4.4 Mg-1.9
___ 06:01PM BLOOD Lactate-1.5

IMAGING:

___: ___ Venous U/S: No evidence of deep venous thrombosis in 
the left lower extremity veins.

___: L foot Xray: Suboptimal evaluation of the mid to distal 
fourth toe due to overlying
bandage; consider repeat study after removal of bandage.  No 
large amount of
cortical loss seen, although it is difficult to exclude this at 
the distal
aspect of the distal phalanx.  Difficult to truly assess for 
soft tissue gas
given overlying bandage.

___: Bilateral arterial duplex: occlusion of distal 
SFA/popliteal artery bilaterally

___: pMIBI Cardiac stress test: No anginal type symptoms or 
significant ST segment changes.
Appropriate hemodynamic response to vasodilator stress. Nuclear 
report
sent separately.
Perfusion: 1. Normal myocardial perfusion. 
2. Normal left ventricular cavity size and systolic function.  

PATHOLOGY:

DISCHARGE LABS:

 
Brief Hospital Course:
SUMMARY
========
___ year old M w/ history of type II DM, DVT/PE on warfarin, 
tobacco abuse, protein C deficiency, HLD, and recent L popliteal 
artery thrombus, who presented to an OSH with worsening 
ulceration of his left ___ toe and transferred for concern for 
gangrene, going to OR for ___ bypass.

ACUTE ISSUES:
=============
# Necrotic left ___ toe: initially presented to outside hospital 
due to concern for wet gangrene. Vascular surgery evaluation at 
that time was determined not to be surgical candidate. He was 
recommended to be transferred to ___ for toe amputation by 
podiatry. Upon his arrival to ___, he was seen by podiatry and 
was recommended for toe amputation. Was started on vanc, cipro, 
and flagyl. Given his chronic clot history, medicine wanted to 
reassess whether he would be a good candidate for 
revascularization and possibly bypass. Vascular was consulted 
and recommended angiogram, arterial duplex studies, as well as 
venous mapping studies to assess graftable vessels in the legs. 
Angiogram was performed and showed left popliteal artery 
occlusion. He was taken to the OR on ___ for ___ bypass as 
well as ___ left toe amputation; There were no complications and 
the patient tolerated the procedure. Patient was deemed stable 
for discharge to home with services on ___

# Cardiac risk stratification: Given concern for chest pain on 
admission, he required cardiac risk stratification in the 
setting of chronic DVT and PE history. He underwent nuclear 
stress test, which showed normal myocardial perfusion and normal 
left ventricular cavity size and
systolic function. No anginal symptoms or ST changes. He may 
proceed to surgery without additional cardiac imaging or workup. 
He is at intermediate risk for an intermediate to low risk 
procedure.

# History of recurrent DVT/PE
# Protein C deficiency
Pt with hypercoagulable history, INR goal for OR <2.0 (1.2 this
AM)
- continue heparin gtt until OR

CHRONIC/RESOLVED ISSUES:
===============
# ST segment elevation 
# New RBBB
S/p normal nuclear stress test. No immediate concern for ACS.
- Continue to monitor cardiac symptoms

# Type II DM
Most recent A1c 8.1% in ___. Patient on multiple oral
medications at home. Controlled in house
- Hold home oral medications
- Continue high dose SSI, standing Humalog 5U with meals, and 
10U
glargine at night

# Persistent sinus tachycardia
Likely iso chronic thromboembolic disease.
- Continue metoprolol
- Ensure outpatient follow-up 

TRANSITIONAL ISSUES
=================
- Follow up with vascular surgery post-op
- Follow up with PCP

#CODE: Full, presumed
#CONTACT: ___, wife ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. alogliptin 25 mg oral DAILY 
2. Atorvastatin 40 mg PO QPM 
3. Cyclobenzaprine Dose is Unknown  PO TID:PRN spasm 
4. dulaglutide 1.5 mg/0.5 mL subcutaneous 1X/WEEK 
5. empagliflozin 10 mg oral DAILY 
6. FLUoxetine 40 mg PO DAILY 
7. Gabapentin 600 mg PO BID 
8. Lisinopril 2.5 mg PO DAILY 
9. MetFORMIN (Glucophage) 1000 mg PO BID 
10. OxyCODONE (Immediate Release) 5 mg PO 5X/DAY PRN Pain - Mild 

11. Sildenafil 100 mg PO PRN ED 
12. Sucralfate 1 gm PO QID:PRN unknown 
13. Warfarin 15mg ___ and 18.75mg on other days tablet(s)  mg 
PO DAILY16 
14. SITagliptin 50 mg oral DAILY 
15. Insulin SC 
      Sliding Scale
Insulin SC Sliding Scale using HUM Insulin
16. Metoprolol Succinate XL 50 mg PO DAILY 

 
Discharge Medications:
1.  Sulfameth/Trimethoprim DS 2 TAB PO BID Duration: 7 Days 
RX *sulfamethoxazole-trimethoprim [Bactrim DS] 800 mg-160 mg 2 
tablet(s) by mouth twice per day Disp #*28 Tablet Refills:*0 
2.  Cyclobenzaprine 5 mg PO TID:PRN spasm  
3.  alogliptin 25 mg oral DAILY  
4.  Atorvastatin 40 mg PO QPM  
5.  dulaglutide 1.5 mg/0.5 mL subcutaneous 1X/WEEK  
6.  empagliflozin 10 mg oral DAILY  
7.  FLUoxetine 40 mg PO DAILY  
8.  Gabapentin 600 mg PO BID  
9.  Lisinopril 2.5 mg PO DAILY  
10.  MetFORMIN (Glucophage) 1000 mg PO BID  
11.  Metoprolol Succinate XL 50 mg PO DAILY  
12.  OxyCODONE (Immediate Release) 5 mg PO 5X/DAY PRN Pain - 
Mild 
RX *oxycodone 5 mg ___ tablet(s) by mouth q4-6 hours Disp #*30 
Tablet Refills:*0 
13.  Sildenafil 100 mg PO PRN ED  
14.  SITagliptin 50 mg oral DAILY  
15.  Sucralfate 1 gm PO QID:PRN unknown  
16.  Warfarin 15mg ___ and 18.75mg on other days tablet(s)  
mg PO DAILY16  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
S/p Left Femoral-Posterior Tibial Bypass Graft with left ___ Toe 
Amputation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
WHAT TO EXPECT:
1. It is normal to feel tired, this will last for ___ weeks 
You should get up out of bed every day and gradually increase 
your activity each day 
Unless you were told not to bear any weight on operative foot: 
you may walk and you may go up and down stairs 
Increase your activities as you can tolerate- do not do too 
much right away!
2. It is normal to have swelling of the leg you were operated 
on:
Elevate your leg above the level of your heart (use ___ 
pillows or a recliner) every ___ hours throughout the day and at 
night
Avoid prolonged periods of standing or sitting without your 
legs elevated
3. It is normal to have a decreased appetite, your appetite will 
return with time 
You will probably lose your taste for food and lose some 
weight 
Eat small frequent meals
It is important to eat nutritious food options (high fiber, 
lean meats, vegetables/fruits, low fat, low cholesterol) to 
maintain your strength and assist in wound healing
To avoid constipation: eat a high fiber diet and use stool 
softener while taking pain medication

MEDICATION:
Take aspirin as instructed 
Follow your discharge medication instructions

ACTIVITIES:
No driving until post-op visit and you are no longer taking 
pain medications
Unless you were told not to bear any weight on operative foot: 

You should get up every day, get dressed and walk
You should gradually increase your activity
You may up and down stairs, go outside and/or ride in a car
Increase your activities as you can tolerate- do not do too 
much right away!
No heavy lifting, pushing or pulling (greater than 5 pounds) 
until your post op visit 
You may shower (unless you have stitches or foot incisions) no 
direct spray on incision, let the soapy water run over incision, 
rinse and pat dry
Your incision may be left uncovered, unless you have small 
amounts of drainage from the wound, then place a dry dressing 
over the area that is draining, as needed

CALL THE OFFICE FOR: ___
Redness that extends away from your incision
A sudden increase in pain that is not controlled with pain 
medication
A sudden change in the ability to move or use your leg or the 
ability to feel your leg
Temperature greater than 100.5F for 24 hours
Bleeding, new or increased drainage from incision or white, 
yellow or green drainage from incisions

 
Followup Instructions:
___